US05187175
1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxypyrimidin-2-yl]-4-phenoxy-1-butene-3-one (0.7 g, 1.9 mmol) is added to an ethanolic (50 mL) solution of hydroxylamine hydrochloride (1.3 g, 19 mmol) and sodium acetate (1.7 g, 20.9 mmol). The reaction mixture is stirred at room temperature under argon for 18 hours. The ethanol is evaporated under reduced pressure, and the remaining solid is partitioned between 20 mL of water and 20 mL of ethyl acetate. The layers are separated and the aqueous phase is washed with ethyl acetate (3×20 mL). The combined organic layers are washed with water (3×20 mL) and 20 mL of brine. Drying over MgSO4 followed by evaporation of solvent gives a yellow oil. Flash chromatography (silica, methylene chloride) followed by recrystallization from hexane gives 0.21 g (29%) of 1-[4,6-bis(1,1-dimethylethyl)-5-hydroxypyrimidin-2-yl]-4-phenoxy-1-butene-3-one oxime, mp 130°-135° C.

reactant | 1-[4,6-Bis(1,1-dimethylethyl)-5-hydroxypyrimidin-2-yl]-4-phenoxy-1-butene-3-one | 1.9 mmol, 0.7 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=CC(COC1=CC=CC=C1)=O | C22H28N2O3
reactant | hydroxylamine hydrochloride | 19 mmol, 1.3 g | Cl.NO
reactant | sodium acetate | 20.9 mmol, 1.7 g | C(C)(=O)[O-].[Na+]
product | 1-[4,6-bis(1,1-dimethylethyl)-5-hydroxypyrimidin-2-yl]-4-phenoxy-1-butene-3-one oxime | 0.21 g, 29% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=CC(COC1=CC=CC=C1)=NO | C22H29N3O3
